US04592866
2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-oxazepino[7,6-f]isoquinoline-5(4H)-thione hydrochloride
Following the procedure of Example 31, 2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-oxazepino[7,6-f]isoquinoline-5(4H)-thione is reacted with dimethylamine to give the title compound.

reactant | 2-(2-chloroethyl)-2,3-dihydro-4-methyl-1,4-oxazepino[7,6-f]isoquinoline-5(4H)-thione | ClCCC1OC2=C3C=CN=CC3=CC=C2C(N(C1)C)=S | C15H15ClN2OS
reactant | dimethylamine | CNC | C2H7N
product | 2-[2-(Dimethylamino)ethyl]-2,3-dihydro-4-methyl-1,4-oxazepino[7,6-f]isoquinoline-5(4H)-thione hydrochloride | Cl.CN(CCC1OC2=C3C=CN=CC3=CC=C2C(N(C1)C)=S)C | InChI=1S/C17H21N3OS.ClH/c1-19(2)9-7-13-11-20(3)17(22)15-5-4-12-10-18-8-6-14(12)16(15)21-13;/h4-6,8,10,13H,7,9,11H2,1-3H3;1H
